US04496725
To 50 g of 2-chloro-6,7-dimethoxy-3-quinolinecarboxaldehyde was added 50 g of hydroxylamine hydrochloride in 500 ml of pyridine. The mixture was stirred at room temperature for 16 hours and the solvent was then evaporated to leave a semi-solid material. This was washed with water, filtered and recrystallized from dimethylformamide to give 2-chloro-6,7-dimethoxy-3-quinolinecarboxaldehyde oxime melting at about 237°-237.5° C. with decomposition.

reactant | 2-chloro-6,7-dimethoxy-3-quinolinecarboxaldehyde | 50 g | ClC1=NC2=CC(=C(C=C2C=C1C=O)OC)OC | C12H10ClNO3
reactant | hydroxylamine hydrochloride | 50 g | Cl.NO
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-6,7-dimethoxy-3-quinolinecarboxaldehyde oxime | ClC1=NC2=CC(=C(C=C2C=C1C=NO)OC)OC | C12H11ClN2O3
